US05663053
8- (1,4,5 -Triphenylimi dazol-2-yloxy)octanamide
8-(1,4,5-Triphenylimidazol-2-yloxy)octanoic acid was treated with thionyl chloride followed by ammonia to give the title compound, m.p. 152.5°-153.5° C., Found: C, 76.6; H, 7.0; N, 9.1%: C29H31N3O2 requires: C, 76.8; H, 6.9; N, 9.3%

reactant | 8-(1,4,5-Triphenylimidazol-2-yloxy)octanoic acid | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCC(=O)O | C29H30N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
product | 8- (1,4,5 -Triphenylimi dazol-2-yloxy)octanamide | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCC(=O)N | C29H31N3O2
